US07592358B2
48.1c. 2-{4-[5-(4-chlorophenyl)pyrazin-2-ylethynyl]phenoxy}ethanol
Under an argon atmosphere 49 mg (0.06 mmol) of PdCl2(dppf) and 11 mg (0.06 mmol) of CuI were added to a repeatedly degassed solution of 535 mg (3.30 mmol) of 2-(4-chlorophenyl)-5-iodopyrazine, 950 mg (3.30 mmol) of 2-(4-ethynylphenoxy)ethanol, and 0.59 mL (6.00 mmol) of piperidine in 50 mL of THF and the mixture was stirred for 4 hours at RT. The precipitate was suction filtered and washed with acetonitrile. The mother liquor was concentrated, and the precipitate formed was filtered off and washed with acetonitrile. The precipitates were combined. Yield: 700 mg (67% of theoretical); C20H15ClN2O2 (M=350.798); calc.: molpeak (M+H)+:351/353 (Cl); found: molpeak (M+H)+:351/353 (Cl); Rf value: 0.30 (silica gel, PE/EtOAc 1:1).

reactant | 2-(4-chlorophenyl)-5-iodopyrazine | 3.30 mmol, 535 mg | ClC1=CC=C(C=C1)C1=NC=C(N=C1)I | C10H6ClIN2
reactant | 2-(4-ethynylphenoxy)ethanol | 3.30 mmol, 950 mg | C(#C)C1=CC=C(OCCO)C=C1 | C10H10O2
reactant | piperidine | 6.00 mmol, 0.59 mL | N1CCCCC1 | C5H11N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(dppf) | 0.06 mmol, 49 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | CuI | 0.06 mmol, 11 mg | [Cu]I
product | 2-{4-[5-(4-chlorophenyl)pyrazin-2-ylethynyl]phenoxy}ethanol | ClC1=CC=C(C=C1)C=1N=CC(=NC1)C#CC1=CC=C(OCCO)C=C1 | C20H15ClN2O2
